US08669361B2
Sodium hydride (60% dispersion in mineral oil, 0.3 g, 7.5 mmol) was added portion-wise to a stirred solution of 2,3-dihydro-1H-pyrazolo[1,5-a]imidazole (0.68 g, 6.19 mmol) in anhydrous DMF (5 mL) at room temperature under a nitrogen atmosphere. The mixture was cooled to 0° C. and stirred for 15 min before a solution of tert-butyl 3-bromopropylcarbamate (1.47 g, 6.19 mmol) in DMF (5 mL) was added portionwise over 5 min. The reaction was warmed to room temperature and stirred for 66 hr at room temperature. Water (5 mL) was added dropwise and the mixture was concentrated under reduced pressure. More water was added and the mixture was extracted with EtOAc. The combined organics were dried over MgSO4 and concentrated under reduced pressure. The crude residue was purified via silica gel chromatography (0-100% EtOAc/isohexane) to give tert-butyl 3-(2,3-dihydro-1H-pyrazolo[1,5-a]imidazol-1-yl)propylcarbamate as an orange oil (0.51 g, 31%). To a solution of this oil in conc. H2SO4 at 0° C. was added conc. HNO3 portionwise over 5 min. The reaction was warmed to room temperature and the mixture was stirred for 18 h. The mixture was re-cooled to 0° C., poured into ice water with stirring and basified with 40% aq. NaOH. The product was extracted into DCM and the combined organics were dried over MgSO4 and concentrated under reduced pressure to afford 3-(7-nitro-2,3-dihydro-1H-pyrazolo[1,5-a]imidazol-1-yl)propan-1-amine as a brown gum. This gum was dissolved in DCM (30 mL) and DIPEA (1 mL) and di-tert-butyl dicarbonate (0.5 g, 2.3 mmol) were added. The mixture was stirred at room temperature for 2 hr. The solvents were removed under reduced pressure and the residue was purified via silica gel chromatography (0-100% EtOAc/isohexane) to give tert-butyl 3-(7-nitro-2,3-dihydro-1H-pyrazolo[1,5-a]imidazol-1-yl)propylcarbamate as a pale yellow gum (100 mg, 17% over two steps). 1H NMR (400 MHz, CDCl3) δ 7.82 (s, 1H), 4.82 (s br, 1H), 4.26-4.16 (m, 2H), 4.12-4.00 (m, 2H), 3.84-3.72 (m, 2H), 3.23 (q, J=6.6 Hz, 2H), 1.89-1.78 (m, 2H), 1.44 (s, 9H)

reactant | Sodium hydride | 7.5 mmol, 0.3 g | [H-].[Na+]
reactant | 2,3-dihydro-1H-pyrazolo[1,5-a]imidazole | 6.19 mmol, 0.68 g | N1C=2N(CC1)N=CC2 | C5H7N3
reactant | tert-butyl 3-bromopropylcarbamate | 6.19 mmol, 1.47 g | BrCCCNC(OC(C)(C)C)=O | C8H16BrNO2
reactant | Water | 5 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | tert-butyl 3-(2,3-dihydro-1H-pyrazolo[1,5-a]imidazol-1-yl)propylcarbamate | 0.51 g, 31% | N1(C=2N(CC1)N=CC2)CCCNC(OC(C)(C)C)=O | C13H22N4O2
